US09359371B2
(2) Preparation: N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl) pyrimidine-5-formamide
In DCM (20 mL) was dissolved N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-formamide (201 mg, 0.47 mmol). Then was added m-CPBA (80 mg, 0.47 mmol). The reaction was conducted at ambient temperature for 5 h. After the reaction was completed, the reaction mixture was washed with water and extracted with DCM. The organic phase was dried, and the solvent was removed by rotary evaporation. The obtained solid was used in the subsequent procedure without further purification.

reactant | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-formamide | 0.47 mmol, 201 mg | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)SC)NCC1=CC(=C(C=C1)OC)Cl | C21H21ClN4O2S
reactant | m-CPBA | 0.47 mmol, 80 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl) pyrimidine-5-formamide | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)S(=O)C)NCC1=CC(=C(C=C1)OC)Cl | C21H21ClN4O3S
